US06737417B2
Ethyl 10-[3,17β-dihydroxyestra-1,3,5(10)-trien-11β-yl]-2-(6,6,7,7,7-pentafluoroheptyl)decanoate (11.1 mg, 0.0168 mmol) was dissolved in a mixed solvent of ethanol (0.5 ml) and tetrahydrofuran (0.5 ml). To this solution, 1N aqueous NaOH (0.5 ml) was added and the resulting mixture was heated under reflux for 5 hours. After cooling, saturated aqueous ammonium chloride was added to the reaction mixture, which was then extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and then filtered. After concentration under reduced pressure, the resulting residue was purified using a silica gel plate (developing solvent: hexane/ethyl acetate=1/1) to give 10-[3,17β-dihydroxyestra-1,3,5(10)-trien-11β-yl]-2-(6,6,7,7,7-pentafluoroheptyl)decanoic acid (5.3 mg, Yield 50%).

reactant | Ethyl 10-[3,17β-dihydroxyestra-1,3,5(10)-trien-11β-yl]-2-(6,6,7,7,7-pentafluoroheptyl)decanoate | 0.0168 mmol, 11.1 mg | OC1=CC=2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)C[C@@H]([C@@H]3C2C=C1)CCCCCCCCC(C(=O)OCC)CCCCCC(C(F)(F)F)(F)F)O | C37H55F5O4
reactant | NaOH | 1N, 0.5 ml | [OH-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
product | 10-[3,17β-dihydroxyestra-1,3,5(10)-trien-11β-yl]-2-(6,6,7,7,7-pentafluoroheptyl)decanoic acid | 5.3 mg, Yield 50% | OC1=CC=2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)C[C@@H]([C@@H]3C2C=C1)CCCCCCCCC(C(=O)O)CCCCCC(C(F)(F)F)(F)F)O | C35H51F5O4
